US04973600
1.25 ml of 1.6M n-butyl lithium in n-hexane is added dropwise to a solution of 252 mg of 1-ethoxymethyl-pyrazole in 5 ml of tetrahydrofuran at -60° to -50° C. 0.4 ml of hexamethylphosphoric triamide is added to the mixture and the mixture is stirred at the same temperature for 1 hour. The mixture is added to a solution of 582 mg of ethyl 4,5-dichloro-6-formyl-1,3-benzodioxole-2-carboxylate in 10 ml of tetrahydrofuran at -60° to -50° C. and the mixture is stirred at the same temperature for 5 minutes. An aqueous saturated ammonium chloride solution is added to the mixture and the mixture is extracted with ethyl acetate. The extract is washed, dried and evaporated to remove solvent. The residue is purified by silica gel column chromatography (solvent; chloroform-acetone-ethanol) to give 240 mg of ethyl 4,5-dichloro-6-[(1-ethoxymethyl-pyrazol-5-yl)-hydroxymethyl]-1,3-benzodioxole-2-carboxylate.

reactant | n-butyl lithium | 1.6M, 1.25 ml | C(CCC)[Li]
reactant | 1-ethoxymethyl-pyrazole | 252 mg | C(C)OCN1N=CC=C1 | C6H10N2O
reactant | ethyl 4,5-dichloro-6-formyl-1,3-benzodioxole-2-carboxylate | 582 mg | ClC1=C(C(=CC=2OC(OC21)C(=O)OCC)C=O)Cl | C11H8Cl2O5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | 0.4 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | ethyl 4,5-dichloro-6-[(1-ethoxymethyl-pyrazol-5-yl)-hydroxymethyl]-1,3-benzodioxole-2-carboxylate | 240 mg | ClC1=C(C(=CC=2OC(OC21)C(=O)OCC)C(O)C2=CC=NN2COCC)Cl | C17H18Cl2N2O6
